US06670494B1
The ethanol solvent recovered from Example 1, approximately 80 ml, was distilled to remove any impurities and then combined with fresh ethanol to total 100 ml for this experiment. 4.0 grams (0.1 Mole) of magnesium oxide and 15 grams (0.2 Mole) of glycine were placed into a beaker provided with a reflux condenser. The 100 ml ethanol was added and the mixture was stirred and boiled at atmospheric pressure for 5 hours. The reaction mixture was then cooled, and thereafter filtered yielding 17.2 grams of magnesium glycinate having the physical characteristic of a fine white powder.

reactant | magnesium oxide | 0.1 Mole, 4.0 grams | [O-2].[Mg+2]
reactant | glycine | 0.2 Mole, 15 grams | NCC(=O)O | C2H5NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | magnesium glycinate | 17.2 grams | NCC(=O)[O-].[Mg+2].NCC(=O)[O-] | InChI=1S/2C2H5NO2.Mg/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
